US09359314B2
(3R)-Thiomorpholine-3-carboxylic acid hydrochloride
20 g of 2-chloroethyl cysteine hydrochloride was dissolved in water, added dropwise of NaHCO3 water solution containing 7.2 g of NaHCO3 in an ice bath, after the addition, the mixture was fully stirred for neutralization, extracted with ethyl acetate for three times, the organic phases were combined and dried with Na2SO4.

reactant | 2-chloroethyl cysteine hydrochloride | 20 g | Cl.ClCCN[C@@H](CS)C(=O)O
reactant | NaHCO3 water | C(=O)(O)[O-].[Na+].O
reactant | NaHCO3 | 7.2 g | C(=O)(O)[O-].[Na+]
solvent | water | O | H2O
product | (3R)-Thiomorpholine-3-carboxylic acid hydrochloride | Cl.N1[C@@H](CSCC1)C(=O)O | InChI=1S/C5H9NO2S.ClH/c7-5(8)4-3-9-2-1-6-4;/h4,6H,1-3H2,(H,7,8);1H/t4-;/m0./s1
